US06294566B1
1-(2-phenylquinolin-4-yl)-ethanol.
To 1-(2-phenylquinolin-4-yl)-ethanone (0.233 g, 0.943 mmol) in 5 ml methanol, at room temperature sodium borohydride (0.036 g, 0.943 mmol) was added and the solution stirred for 30 minutes. The reaction mixture was concentrated and partitioned between EtOAc (10 ml) and water (5 ml). The organic layer was dried over sodium sulfate, filtered, concentrated and column purified (hexane:EtOAc; 3.5:1.5) to give 0.145 g (62%) of the product as a syrup which was used as such for the subsequent step.

reactant | 1-(2-phenylquinolin-4-yl)-ethanone | 0.943 mmol, 0.233 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)C(C)=O | C17H13NO
reactant | sodium borohydride | 0.943 mmol, 0.036 g | [BH4-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 1-(2-phenylquinolin-4-yl)-ethanol | 0.145 g, 62% | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)C(C)O | C17H15NO
